US07973164B2
2,4-Dinitrobenzenesulphonyl chloride (3.1 g) was added dropwise to a stirred solution of 4-amino-1-methylpyrazole (2.55 g) in methylene chloride (50 ml) that had been cooled to −5° C. The resultant mixture was stirred at this temperature for 5 minutes. The mixture was washed in turn with water, a 5% aqueous ammonium chloride solution, a saturated aqueous sodium bicarbonate solution and brine. The organic phase was dried over magnesium sulphate and filtered. There was thus obtained a solution of N-(1-methylpyrazol-4-yl)-2,4-dinitrobenzenesulphonamide; Mass Spectrum: M+H+ 328.

reactant | 2,4-Dinitrobenzenesulphonyl chloride | 3.1 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=O)Cl | C6H3ClN2O6S
reactant | 4-amino-1-methylpyrazole | 2.55 g | NC=1C=NN(C1)C | C4H7N3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(1-methylpyrazol-4-yl)-2,4-dinitrobenzenesulphonamide | CN1N=CC(=C1)NS(=O)(=O)C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C10H9N5O6S
